US04652567
1,4-Dihydro-1-phenylmethylbenzo[c]-1,5-naphthyridin-2(3H)-one
A stirred solution of 1,4-dihydrobenzo[c]-1,5naphthyridin-2(3H)-one (3.97 g) in dimethylsulfoxide (sieve dried, 80 ml) was treated sequentially with powdered potassium hydroxide (2.64 g of 85% KOH) and benzyl bromide (3.76 g). The solution was stirred for 1.5 hours at ambient temperature, transferred to a separatory funnel, diluted with water (400 ml) and extracted with ethyl acetate (2×250 ml). The organic phase was washed with water (2×200 ml) dried (Na2SO4), filtered and evaporated to give a solid (4.9 g). Recrystallization from 95% ethanol (32 ml) gave 3.35 g of crystals, m.p. 153.5-155.5° C.

reactant | 1,4-dihydrobenzo[c]-1,5naphthyridin-2(3H)-one | 3.97 g | N1C=2C3=C(C=NC2CCC1=O)C=CC=C3 | C12H10N2O
reactant | potassium hydroxide | 2.64 g | [OH-].[K+]
reactant | benzyl bromide | 3.76 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
solvent | water | 400 ml | O | H2O
product | 1,4-Dihydro-1-phenylmethylbenzo[c]-1,5-naphthyridin-2(3H)-one | 4.9 g | C1(=CC=CC=C1)CN1C=2C3=C(C=NC2CCC1=O)C=CC=C3 | C19H16N2O
